US05089616
Step F: Preparation of [1S-(1R*,2S*,3R*)]-N-(4-morpholinylsulfonyl)-L-phenylalanyl-3-(2-amino-4-thiazolyl)-N-[(1-cyclohexylmethyl)-2,3-dihydroxy-5-methylhexyl]-L-alaninamide
1-N-Hydroxybenzotriazole, 190.6 g, 395.0 g of [2S-(2R*,3S*,4R*)]-2-amino-1-cyclohexyl-6-methyl-3,4-heptanediol (U.S. Pat. Nos. 4,680,284 and 4,845,079), 682.4 g (1.62 mol) of N-(4-morpholinylsulfonyl)-L-phenylalanyl-3-(2-amino-4-thiazolyl)-L-alanine and 20 L of ethyl acetate are charged into a 50 L reactor and the slurry is stirred. Triethylamine, 107.1 g with 0.5 L of ethyl acetate, is added to the mixture and stirred for 1 hour at 30° C. A solution of 300.0 g of dicyclohexylcarbodiimide dissolved in 2.5 L of ethyl acetate is added to the reaction mixture over 15 to 30 minutes. The slurry is warmed to 35° to 40° C. and stirred at that temperature for 48 hours, cooled to 25° C., and the solids removed by filtration. The filtrate is washed with 0.5N aqueous hydrochloric acid solution (4 L), saturated sodium bicarbonate solution (4×4 L), and water (2 L). The solution is concentrated to a thick slurry under vacuum, chilled to 5° C., and the crude product solid collected by filtration and dried under vacuum at 40° C. The crude product and 4 L of isopropanol are charged into a 12 L reactor and the slurry is heated to 45° C. Water, 1 L, is added and heating continued to 60° C. The solution is cooled slowly to crystallize the product and then chilled to 10° C. The slurry is filtered and the cake is washed with cold isopropanol. After drying at 40° C. under vacuum, 770 g of [1S-(1R*,2S*,3R*)]-N-(4-morpholinylsulfonyl)-L-phenylalanyl-3-(2-amino-4-thiazolyl)-N-[(1-cyclohexylmethyl)-2,3-dihydroxy-5-methylhexyl]-L-alaninamide is obtained as white needles of >99% purity by HPLC; mass spectrum (fast atom bombardment): 709.2 M+.

reactant | 1-N-Hydroxybenzotriazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 2-amino-1-cyclohexyl-6-methyl-3,4-heptanediol | NC(CC1CCCCC1)C(C(CC(C)C)O)O | C14H29NO2
reactant | N-(4-morpholinylsulfonyl)-L-phenylalanyl-3-(2-amino-4-thiazolyl)-L-alanine | 1.62 mol, 682.4 g | N1(CCOCC1)S(=O)(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC=1N=C(SC1)N)C(=O)O | C19H25N5O6S2
reactant | dicyclohexylcarbodiimide | 300.0 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | ethyl acetate | 2.5 L | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 0.5 L | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 20 L | C(C)(=O)OCC | C4H8O2
solvent | Triethylamine | C(C)N(CC)CC | C6H15N
product | N-(4-morpholinylsulfonyl)-L-phenylalanyl-3-(2-amino-4-thiazolyl)-N-[(1-cyclohexylmethyl)-2,3-dihydroxy-5-methylhexyl]-L-alaninamide | N1(CCOCC1)S(=O)(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC=1N=C(SC1)N)C(=O)NC(C(C(CC(C)C)O)O)CC1CCCCC1 | C33H52N6O7S2
